US04420424
(A) Z-D-Aad(OBut)-Val-Tyr(But)-OMe
1.28 ml (10 mmoles) of N-ethylmorpholine and 2.1 g of dicyclohexylcarbodiimide are added at 0° C. to a solution in 20 ml of dimethylformamide of 3.54 g (10 mmoles) of Z-D-Aad(OBut)-OH, 3.86 g (10 mmoles) of H-Val-Tyr(But)-OMe.HCl and 1.35 g (10 mmoles) of 1-hydroxybenzotriazole. The mixture is stirred for 1 hour at 0° C. and then at room temperature. It is left to stand overnight and the precipitate is filtered off on the following day. The filtrate is concentrated in a high vacuum and the residue is partitioned between ethyl acetate and water. The ethyl acetate phase is extracted by shaking successively with saturated NaHCO3 solution, KHSO4 solution and water, is dried over Na2SO4 and is concentrated. The residue crystallizes from petroleum ether. Yield 5.96 g. The substance is purified further by hot recrystallization from 90 ml of isopropyl ether and 30 ml of isopropanol. Yield 2.48 g, melting point 104°-107°, [α]D23 =-11.5° (c=1, methanol).

reactant | N-ethylmorpholine | 10 mmoles, 1.28 ml | C(C)N1CCOCC1 | C6H13NO
reactant | dicyclohexylcarbodiimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Z-D-Aad(OBut)-OH | 10 mmoles, 3.54 g | N([C@H](CCCC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C18H25NO6
reactant | H-Val-Tyr(But)-OMe.HCl | 10 mmoles, 3.86 g | N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC.Cl
reactant | 1-hydroxybenzotriazole | 10 mmoles, 1.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Z-D-Aad(OBut)-Val-Tyr(But)-OMe | N([C@H](CCCC(=O)OC(C)(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C37H53N3O9
